US07091214B2
A modification of the method described in Part A of Example 9 was used to treat 7-bromo-N4-(cyclohexylmethyl)quinoline-3,4-diamine (7.3 g, 22 mmol) with ethoxyacetyl chloride (2.75 mL, 24.0 mmol). The reaction was heated overnight at 90° C. and then concentrated under reduced pressure to provide 7-bromo-1-cylcohexylmethyl-2-ethoxymethyl-1H-imidazo[4,5-c]quinoline as a dark brown semi-solid.

reactant | 7-bromo-N4-(cyclohexylmethyl)quinoline-3,4-diamine | 22 mmol, 7.3 g | BrC1=CC=C2C(=C(C=NC2=C1)N)NCC1CCCCC1 | C16H20BrN3
reactant | ethoxyacetyl chloride | 24.0 mmol, 2.75 mL | C(C)OCC(=O)Cl | C4H7ClO2
product | 7-bromo-1-cylcohexylmethyl-2-ethoxymethyl-1H-imidazo[4,5-c]quinoline | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC3CCCCC3)COCC | C20H24BrN3O
